US06110967
2-(2-Methyl-5-nitro-1-imidazolyl)ethyl methanesulfonate:
Metronidazole (5.0 g, 29.2 mmol) was dissolved in pyridine (10 ml), and a pyridine solution (10 ml) of methanesulfonyl chloride (3.5 g, 30.7 mmol) was added dropwise to the solution. After the mixture was stirred at room temperature for 5 hours, the solvent was distilled off under reduced pressure, and the residue was washed with water-ethanol and dried to obtain 6.4 g of the title compound.

reactant | Metronidazole | 29.2 mmol, 5.0 g | CC1=NC=C(N1CCO)[N+](=O)[O-] | C6H9N3O3
reactant | methanesulfonyl chloride | 30.7 mmol, 3.5 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 2-(2-Methyl-5-nitro-1-imidazolyl)ethyl methanesulfonate | 6.4 g | CS(=O)(=O)OCCN1C(=NC=C1[N+](=O)[O-])C | C7H11N3O5S
